US08802659B2
N-(2-Formyl-4-methoxyphenyl)acetamide
5-Methoxy-2-nitro-benzaldehyde (5.00 g, 0.0276 mol), Platinum dioxide (400 mg, 0.002 mol) and Sodium acetate trihydrate (300 mg, 0.002 mol) were placed in a pressure flask, followed by Ethyl acetate (200 mL, 2 mol). The reaction mixture was then purged under N2 at least 3 times, and H2 was introduced (purged 3 times) and maintained at 52 psi for 3 hours. The reaction mixture was then filtered, and cooled to at −20° C. N,N-Diisopropylethylamine (7.21 mL, 0.0414 mol) was added to the solution followed by Acetyl chloride (2.36 mL, 0.0331 mol). The reaction mixture was allowed to stir for 2 hours, and quenched with KHCO3 (sat). Organic layer was separated, and washed with waster, brine and dried over Na2SO4. Removal of solvent gave a crude product, which was then purified via chromatography (SiO2, 80 g, 0-100% ethyl acetate/hexanes; 4.28 g, 80%). 1H NMR (300 MHz, CHLOROFORM-d) δ ppm 2.25 (s, 3H) 3.88 (s, 3H) 7.10-7.26 (m, 2H) 8.69 (d, J=9.06 Hz, 1H) 9.90 (s, 1H) 10.75-11.04 (m, 1H). MS (ESI, M+1): 194.10.

reactant | 5-Methoxy-2-nitro-benzaldehyde | 0.0276 mol, 5.00 g | COC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C8H7NO4
reactant | Sodium acetate trihydrate | 0.002 mol, 300 mg | O.O.O.C(C)(=O)[O-].[Na+]
reactant | Ethyl acetate | 2 mol, 200 mL | C(C)(=O)OCC | C4H8O2
reactant | N,N-Diisopropylethylamine | 0.0414 mol, 7.21 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Acetyl chloride | 0.0331 mol, 2.36 mL | C(C)(=O)Cl | C2H3ClO
catalyst | Platinum dioxide | 0.002 mol, 400 mg | [Pt](=O)=O
product | N-(2-Formyl-4-methoxyphenyl)acetamide | C(=O)C1=C(C=CC(=C1)OC)NC(C)=O | C10H11NO3
